US07056918B2
To a tetrahydrofuran (150 mL) solution of 1-Cyclobutyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methyl ester 16.35 g, 62.8 mmol) was added lithium borohydride (63 mL, 2.0 M in tetrahydrofuran). The mixture was heated to 65° C. then methanol (2.5 mL) was added. The reaction was complete after 0.5 hours and was cooled and extracted into ethyl acetate from saturated ammonium chloride. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated to give 13.79 g of 1-Cyclobutyl-5-hydroxymethyl-3-methyl-1,3-dihydro-benzoimidazol-2-one.

reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | 1-Cyclobutyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methyl ester | 62.8 mmol, 16.35 g | COC(=O)C1=CC2=C(N(C(N2)=O)C2CCC2)C=C1 | C13H14N2O3
reactant | lithium borohydride | 2.0 M, 63 mL | [BH4-].[Li+]
solvent | methanol | 2.5 mL | CO | CH4O
product | 1-Cyclobutyl-5-hydroxymethyl-3-methyl-1,3-dihydro-benzoimidazol-2-one | 13.79 g | C1(CCC1)N1C(N(C2=C1C=CC(=C2)CO)C)=O | C13H16N2O2
